US05670492
To 429 mg (2.22 mmol) of methyl (E)-3-(3-methoxy-6-pyridyl)acrylate were added 12 ml of methanol and 1.11 ml of a 4N potassium hydroxide aqueous solution, and the mixture was stirred at room temperature for 20 hours. To the reaction mixture was added 1N hydrochloric acid, and the solution was extracted with ethyl acetate and with chloroform. The ethyl acetate layer and the chloroform layer were separately washed with a saturated aqueous solution of sodium chloride. The combined organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 277 mg (1.55 mmol) of (E)-3-(3-methoxy-6-pyridyl)acrylic acid (yield: 70%).

reactant | methyl (E)-3-(3-methoxy-6-pyridyl)acrylate | 2.22 mmol, 429 mg | COC=1C=NC(=CC1)/C=C/C(=O)OC | C10H11NO3
reactant | potassium hydroxide | 4N | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 12 ml | CO | CH4O
product | (E)-3-(3-methoxy-6-pyridyl)acrylic acid | 1.55 mmol, 277 mg, yield: 70% | COC=1C=NC(=CC1)/C=C/C(=O)O | C9H9NO3
